US07452911B2
(4-{4-[5-(4-chloro-phenyl)-pyridin-2-yl]-but-3-ynyl}-benzyl)-methyl-piperidin-4-yl-amine
0.5 mL trifluoroacetic acid are added to a solution of 35 mg (0.06 mmol) tert-butyl-4-[(4-{4-[5-(4-chloro-phenyl)-pyridin-2-yl]-but-3-ynyl}-benzyl)-methyl-amino]-piperidin-1-carboxylate in 3 mL DCM and the reaction mixture is stirred for 3 h at RT. The mixture is evaporated down i.vac., the residue is combined with 10 mL NaHCO3 solution, extracted with 20 mL DCM and the organic phase is dried over Na2SO4. After the desiccant and solvent have been eliminated the desired product is obtained.

reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl-4-[(4-{4-[5-(4-chloro-phenyl)-pyridin-2-yl]-but-3-ynyl}-benzyl)-methyl-amino]-piperidin-1-carboxylate | 0.06 mmol, 35 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)CC1=CC=C(C=C1)CCC#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C33H38ClN3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (4-{4-[5-(4-chloro-phenyl)-pyridin-2-yl]-but-3-ynyl}-benzyl)-methyl-piperidin-4-yl-amine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CCCC1=CC=C(CN(C2CCNCC2)C)C=C1 | C28H30ClN3
